US04485249
60.8 g (1.9 mols) of methanol were added with stirring to a suspension of 105 g (0.5 mol) of benzil in 107.1 g (0.9 mol) of thionyl chloride, with cooling to a temperature below 10° C. The mixture was initially stirred until room temperature was reached, and then it was stirred for 2 hours at 50° C. 52.8 g (0.6 mol) of cis-2-butene-1,4-diol were added to the clear, pale yellow solution, and volatile products were distilled off at 10 torr and 50° C. The mixture was then stirred for 3 hours at from 60° to 65° C. under normal pressure, 15 g of potassium carbonate and 200 ml of isopropanol were added, and the reaction product was precipitated by the dropwise addition of 100 ml of water. 110.4 g of 2-benzoyl-2-phenyl-4,7-dihydro-1,3-dioxepin were obtained, having a melting point of from 115° to 119° C. After recrystallizing from isopropanol, the melting point was from 118° to 119° C.

reactant | methanol | 1.9 mols, 60.8 g | CO | CH4O
reactant | benzil | 0.5 mol, 105 g | C1(=CC=CC=C1)C(=O)C(=O)C1=CC=CC=C1 | C14H10O2
reactant | thionyl chloride | 0.9 mol, 107.1 g | S(=O)(Cl)Cl | Cl2OS
reactant | cis-2-butene-1,4-diol | 0.6 mol, 52.8 g | C(\C=C/CO)O | C4H8O2
product | 2-benzoyl-2-phenyl-4,7-dihydro-1,3-dioxepin | 110.4 g | C(C1=CC=CC=C1)(=O)C1(OCC=CCO1)C1=CC=CC=C1 | C18H16O3
